* D:\GITHUB\Electronic-Load\Simulation\Simulation.asc
XU1 IREF N019 12V 0 N018 LM741/NS
M1 N006 N008 N019 N019 IRFZ46N
R1 N019 0 0.1
V1 N002 N001 10
D1 0 N008 BZX84C8V2LT116
R3 3.3V IREF 1200k
R4 IREF N016 100k
V2 3.3V 0 3.3V
R5 N016 N017 10k
R6 N017 0 500
V3 12V 0 12V
R7 N008 N018 500k
XU5 N003 N006 12V 0 N005 LM741/NS
R20 3.3V N003 2.3k
R22 N004 0 880
D6 N005 N004 D
R23 N002 N006 0.01
C1 N008 0 100µF
R2 N001 0 0.01
R9 0 N003 1k
Q1 N008 N012 0 0 BC547B
R8 N012 HALT 1k
R10 N012 0 10k
V4 HALT 0 0
R11 N008 0 10000k
XU2 IREF N021 12V 0 N020 LM741/NS
M2 N006 N009 N021 N021 IRFZ46N
R12 N021 0 0.1
D2 0 N009 BZX84C8V2LT116
R13 N009 N020 500k
C2 N009 0 100µF
Q2 N009 N013 0 0 BC547B
R14 N013 HALT 1k
R15 N013 0 10k
R16 N009 0 10000k
XU3 IREF N023 12V 0 N022 LM741/NS
M3 N006 N010 N023 N023 IRFZ46N
R17 N023 0 0.1
D3 0 N010 BZX84C8V2LT116
R18 N010 N022 500k
C3 N010 0 100µF
Q3 N010 N014 0 0 BC547B
R19 N014 HALT 1k
R21 N014 0 10k
R24 N010 0 10000k
XU4 IREF N025 12V 0 N024 LM741/NS
M4 N006 N011 N025 N025 IRFZ46N
R25 N025 0 0.1
D4 0 N011 BZX84C8V2LT116
R26 N011 N024 500k
C4 N011 0 100µF
Q4 N011 N015 0 0 BC547B
R27 N015 HALT 1k
R28 N015 0 10k
R29 N011 0 10000k
R30 12V N028 80
R31 12V N028 80
XU6 N019 N027 12V 0 N026 LM741/NS
R33 3.3V N027 10k
R34 0 N027 0.5k
M5 N028 N026 0 0 IRFZ46N
.model D D
.lib C:\Users\erdem\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\erdem\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\erdem\Documents\LTspiceXVII\lib\cmp\standard.mos
.include D:\GITHUB\Electronic-Load\Simulation\LM741.MOD
* INPUT+
* -INPUT
* max 0.5V
* max 200k
* max 10k
* max 500
.tran 0 1 0
* Current Adjustment
* ~1V
* LED INDICATES LOW DRAIN VOLTAGE
* FUSE
.backanno
.end
