* D:\GITHUB\Electronic-Load\Simulation\Simulation.asc
XU1 IREF N020 12V 0 N019 LM741/NS
M1 N008 N011 N020 N020 IRFZ46N
R1 N020 0 0.1
V1 N004 N001 5
D1 0 N011 BZX84C8V2LT116
R3 3.3V IREF 1200k
V2 3.3V 0 3.3V
R6 IREF 0 1
V3 12V 0 12V
R7 N011 N019 500k
XU5 N005 N008 12V 0 N007 LM741/NS
R20 3.3V N005 2.3k
R22 N006 0 1100
D6 N007 N006 D
R23 N004 N008 0.01
C1 N011 0 1µF
R2 N001 0 0.2
R9 0 N005 1k
Q1 N011 HALT 0 0 BC547B
R11 N011 0 10000k
XU2 IREF N022 12V 0 N021 LM741/NS
M2 N008 N012 N022 N022 IRFZ46N
R12 N022 0 0.1
D2 0 N012 BZX84C8V2LT116
R13 N012 N021 500k
C2 N012 0 1µF
Q2 N012 HALT 0 0 BC547B
R16 N012 0 10000k
XU3 IREF N024 12V 0 N023 LM741/NS
M3 N008 N013 N024 N024 IRFZ46N
R17 N024 0 0.1
D3 0 N013 BZX84C8V2LT116
R18 N013 N023 500k
C3 N013 0 1µF
Q3 N013 HALT 0 0 BC547B
R24 N013 0 10000k
XU4 IREF N026 12V 0 N025 LM741/NS
M4 N008 N014 N026 N026 IRFZ46N
R25 N026 0 0.1
D4 0 N014 BZX84C8V2LT116
R26 N014 N025 500k
C4 N014 0 1µF
Q4 N014 HALT 0 0 BC547B
R29 N014 0 10000k
R30 12V N030 80
R31 12V N030 80
XU6 N020 N028 12V 0 N027 LM741/NS
R33 3.3V N028 3.2k
R34 0 N028 0.1k
M5 N030 N027 0 0 IRFZ46N
R35 N029 0 1100
D5 N027 N029 D
V5 N016 0 0.3
R32 0 N016 100k
R36 N015 0 1100
D7 N016 N015 D
R10 N016 HALT 1k
.model D D
.lib C:\Users\erdem\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\erdem\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\erdem\Documents\LTspiceXVII\lib\cmp\standard.mos
.include D:\GITHUB\Electronic-Load\Simulation\LM741.MOD
* INPUT+
* -INPUT
* max 0.5V
* max 200k
* max 10k
* max 500
.tran 0 12 0
* Current Adjustment
* ~1V
* LED INDICATES LOW DRAIN VOLTAGE
* FUSE
* LED INDICATES FAN IS ACTIVATED
* Grounds mosfet gates
* POT1
* POT2
* POT3
* SWITCH
* FAN CURRENT LIMIT
* Power supply
* linear voltage regulator
* FANS
.backanno
.end
